US06313312B1
Ethyl 3-(3-hexyl-6-methyl-2-oxo-3-azabicyclo[3.1.0]hex-6-yl)benzene carboximidoate
Hydrogen chloride gas was bubbled through a solution of 3-(3-hexyl-6-methyl-2-oxo-3-azabicyclo[3.1.0]hex-6-yl)benzonitrile (Preparation 36, 0.55 g, 1.86 mmol) in ethanol (8 ml) at 0° C. for 1 h. The reaction vessel was then sealed and left standing in the fridge for 48 h. The mixture was allowed to warm to room temperature and the solvent was removed in vacuo (to afford the title compound as its hydrochloride salt). The residue was dissolved in dichloromethane (20 ml) and washed with 10% w/v potassium carbonate solution (2×10 ml). The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The crude title compound (700 mg) was isolated as a colourless oil which was taken on without further purification.

reactant | Hydrogen chloride | Cl | ClH
reactant | 3-(3-hexyl-6-methyl-2-oxo-3-azabicyclo[3.1.0]hex-6-yl)benzonitrile | 1.86 mmol, 0.55 g | C(CCCCC)N1C(C2C(C2C1)(C)C=1C=C(C#N)C=CC1)=O | C19H24N2O
reactant | ethanol | 8 ml | C(C)O | C2H6O
product | Ethyl 3-(3-hexyl-6-methyl-2-oxo-3-azabicyclo[3.1.0]hex-6-yl)benzene carboximidoate | C(CCCCC)N1C(C2C(C2C1)(C)C=1C=C(C=CC1)C(OCC)=N)=O | C21H30N2O2
